US04370329
3.85 g of N-(4-methoxyphenyl)-piperazine, 4.33 g of 3,4,5-trimethoxybenzyl chloride and 3.5 g of K2CO3 are reacted and processed according to example 2. 4.5 g of N-(3,4,5-trimethoxy-benzyl)-N'-(4-methoxyphenyl)-piperazine dihydrochloride is obtained.

reactant | N-(4-methoxyphenyl)-piperazine | 3.85 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | 3,4,5-trimethoxybenzyl chloride | 4.33 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
product | N-(3,4,5-trimethoxy-benzyl)-N'-(4-methoxyphenyl)-piperazine dihydrochloride | 4.5 g | Cl.Cl.COC=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)OC)C=C(C1OC)OC | InChI=1S/C21H28N2O4.2ClH/c1-24-18-7-5-17(6-8-18)23-11-9-22(10-12-23)15-16-13-19(25-2)21(27-4)20(14-16)26-3;;/h5-8,13-14H,9-12,15H2,1-4H3;2*1H
